US04482723
4-Acetyl-2-methylimidazole
A mixture of 1.64 g (10 mmole) 2-(1-chloro-2-oxopropyl)dioxolane, 1.89 g (20 mmole) acetamidine hydrochloride, 2.46 g (30 mmole) sodium acetate and 20 ml t-butanol is heated at reflux for 24 hours and the product isolated as in Part A.

reactant | 2-(1-chloro-2-oxopropyl)dioxolane | 10 mmole, 1.64 g | ClC(C(C)=O)C1OCCO1 | C6H9ClO3
reactant | acetamidine hydrochloride | 20 mmole, 1.89 g | Cl.C(C)(=N)N
reactant | sodium acetate | 30 mmole, 2.46 g | C(C)(=O)[O-].[Na+]
solvent | t-butanol | 20 ml | C(C)(C)(C)O | C4H10O
product | 4-Acetyl-2-methylimidazole | C(C)(=O)C=1N=C(NC1)C | C6H8N2O
